US06002008
4-(3-Bromo-phenylamino)-6-methoxy-7-(3-morpholin-4-yl-propoxy)-quinoline-3-carbonitrile
The method of Example 312 was used as well as 0.3 g of 4-chloro-6-methoxy-7-(3-morpholin-4-yl-propoxy)-quinoline-3-carbonitrile, 0.12 ml of 3-bromo aniline, 0.1 g of pyridine hydrochloride and 4.0 ml of 2-ethoxy ethanol. This afforded an oil which was purified by silica gel flash chromatography utilizing a gradient of methylene chloride/methanol (96:4 to 92:8) to give 0.22 g of the tide compound as an off white solid, mp 115-118 C; mass spectrum (ES, m/e):M+H499.

reactant | 4-chloro-6-methoxy-7-(3-morpholin-4-yl-propoxy)-quinoline-3-carbonitrile | 0.3 g | ClC1=C(C=NC2=CC(=C(C=C12)OC)OCCCN1CCOCC1)C#N | C18H20ClN3O3
reactant | 3-bromo aniline | 0.12 ml | BrC=1C=C(N)C=CC1 | C6H6BrN
reactant | pyridine hydrochloride | 0.1 g | Cl.N1=CC=CC=C1
reactant | 2-ethoxy ethanol | 4.0 ml | C(C)OCCO | C4H10O2
product | 4-(3-Bromo-phenylamino)-6-methoxy-7-(3-morpholin-4-yl-propoxy)-quinoline-3-carbonitrile | 0.22 g | BrC=1C=C(C=CC1)NC1=C(C=NC2=CC(=C(C=C12)OC)OCCCN1CCOCC1)C#N | C24H25BrN4O3
